US07759337B2
Step 1. 3-Bromo-4-methylbenzenesulfonamide
To a mixture of p-toluenesulfonamide (2 g, 1.16 mmol) and iron (0.41 g, 7.36 mmol) was slowly added bromine (6 mL, 116 mmol). The resulting reddish brown solution was stirred at RT for 1 h. The reaction was carefully poured into ice-cold 1 M Na2S2O3 aqueous solution and extracted with CH2Cl2 (2×). The organic extracts were combined and washed with brine, dried (MgSO4), filtered, and concentrated in vacuo. CombiFlash purification (1% to 10% MeOH/CH2Cl2) afforded the title compound as a white solid. 1H NMR (DMSO-d6, 400 MHz): □ 7.98 (s, 1H), 7.71 (d, J=8 Hz, 1H), 7.55 (d, J=8 Hz, 1H), 7.54 (br s, 2H), 2.41 (s, 3H).

reactant | p-toluenesulfonamide | 1.16 mmol, 2 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | bromine | 116 mmol, 6 mL | BrBr | Br2
catalyst | iron | 7.36 mmol, 0.41 g | [Fe] | Fe
product | 3-Bromo-4-methylbenzenesulfonamide | BrC=1C=C(C=CC1C)S(=O)(=O)N | C7H8BrNO2S
